US06207825B1
1.31 g of 1-(4-bromophenyl)-3-methylene-2-pyrrolidinone and 1.00 g of 4-(2-methoxyethyl)piperazine were mixed with 5 ml of ethylene glycol dimethyl ether. The mixture was refluxed for 6.5 hours and then cooled. Thereto was added water. The mixture was subjected to extraction with ethyl acetate twice. The organic layer was dried over anhydrous magnesium sulfate and then concentrated to obtain 1.91 g of 1-(4-bromophenyl)-3-[4-(2-methoxyethyl)piperazine-1-yl]methyl-2-pyrrolidinone.

reactant | 1-(4-bromophenyl)-3-methylene-2-pyrrolidinone | 1.31 g | BrC1=CC=C(C=C1)N1C(C(CC1)=C)=O | C11H10BrNO
reactant | 4-(2-methoxyethyl)piperazine | 1.00 g | COCCN1CCNCC1 | C7H16N2O
reactant | ethylene glycol dimethyl ether | 5 ml | COCCOC | C4H10O2
solvent | water | O | H2O
product | 1-(4-bromophenyl)-3-[4-(2-methoxyethyl)piperazine-1-yl]methyl-2-pyrrolidinone | 1.91 g | BrC1=CC=C(C=C1)N1C(C(CC1)CN1CCN(CC1)CCOC)=O | C18H26BrN3O2
